US08669266B2
(i) 4-[2-(Benzyloxycarbonyl-methyl-amino)-acetyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 500 mg Z-Sar-OH in 15 ml DMF were added 1.1 ml N-ethylmorpholine, 735 mg TOTU and 417 mg 1-butoxycarbonylpiperazine. After stirring for 12 h, aqueous NaHCO3 was added and the reaction mixture was diluted with ethyl acetate and washed with aqueous LiCl (4%) and 0.1 M HCl. The crude product obtained after evaporation of the solvent was used without further purification. Yield: 746 mg.

reactant | Z-Sar-OH | 500 mg | N(C)(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | N-ethylmorpholine | 1.1 ml | C(C)N1CCOCC1 | C6H13NO
reactant | TOTU | 735 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | 1-butoxycarbonylpiperazine | 417 mg | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(Benzyloxycarbonyl-methyl-amino)-acetyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C(CN(C)C(=O)OCC1=CC=CC=C1)=O | C20H29N3O5
